US09340546B2
1-methylpiperazine (2.109 g, 21.06 mmol) in DCM (62.50 mL) was added to a stirred solution of 3-bromo-4-chloro-5-nitro-pyridine (5000 mg, 21.06 mmol) and DIPEA (3.266 g, 4.402 mL, 25.27 mmol) in DCM (62.50 mL) at RT. The reaction was allowed to stir at ambient temperature for 2 h, then was concentrated in vacuo. The residue was partitioned between a saturated aqueous solution of NaHCO3 and DCM. Combined organic extract was dried and concentrated in vacuo. The orange solid was suspended in Acetic acid (60.00 mL) before iron (7.059 g, 126.4 mmol) was added. The mixture was warmed at 50° C. and stirred for 15 min. The mixture was allowed to cool to RT and DCM:EtOAc (4:1) (400 mL) was added to the reaction. The resulting brown suspension was filtered using a prewetted Celite cartridge (25 g), washing with more DCM:MeOH (4:1) (200 mL). Combined filtrate was concentrated in vacuo to afford a red/brown gum which was purified by chromatography on silica (Rf companion, 80 g cartridge), eluting with DCM-DCM:MeOH:NE3(90:10:1) a gradient of 100-0 to 20:80. Fractions containing clean product were collected and concentrated in vacuo to afford 5-bromo-4-(4-methylpiperazin-1-yl)pyridin-3-amine as a viscous, clear light yellow oil that solidifies on standing. MS (ES+) 273.1.

reactant | 1-methylpiperazine | 21.06 mmol, 2.109 g | CN1CCNCC1 | C5H12N2
reactant | 3-bromo-4-chloro-5-nitro-pyridine | 21.06 mmol, 5000 mg | BrC=1C=NC=C(C1Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | DIPEA | 25.27 mmol, 4.402 mL, 3.266 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM EtOAc | 400 mL | C(Cl)Cl.CCOC(=O)C
solvent | DCM | 62.50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 62.50 mL | C(Cl)Cl | CH2Cl2
solvent | Acetic acid | 60.00 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 126.4 mmol, 7.059 g | [Fe] | Fe
product | 5-bromo-4-(4-methylpiperazin-1-yl)pyridin-3-amine | BrC=1C(=C(C=NC1)N)N1CCN(CC1)C | C10H15BrN4
